US07893056B2
To a solution of (3S,5S)-3,5-dimethyl-2-piperazinone in methanol (12 mL) at room temperature was added formaldehyde (0.345 mL, 37% water solution, 4.6 mmol) followed by sodium borohydride (261 mg, 6.9 mmol). The reaction mixture was stirred for 2 h before being diluted with dichloromethane and washed with 1N NaOH solution. The aqueous layer was back extracted with CH2Cl2 three times, and the combined organic layers were washed with brine, dried (MgSO4) and evaporated to yield (3S,5S)-3,4,5-trimethyl-2-piperazinone (128 mg, 39%). LCMS: (M+H)+: 143.1.

reactant | (3S,5S)-3,5-dimethyl-2-piperazinone | C[C@H]1C(NC[C@@H](N1)C)=O | C6H12N2O
reactant | formaldehyde | 4.6 mmol, 0.345 mL | C=O | CH2O
reactant | sodium borohydride | 6.9 mmol, 261 mg | [BH4-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3S,5S)-3,4,5-trimethyl-2-piperazinone | 128 mg, 39% | C[C@H]1C(NC[C@@H](N1C)C)=O | C7H14N2O
